US05177096
(iii) (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-(t-butyldimethylsilyloxy)methyl-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoic acid
A solution of ethyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-(t-butyldimethylsilyloxy)methyl-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate (0.287 mmol) in absolute ethanol (3 mL) is treated portionwise with one equivalent of 10% sodium hydroxide solution. After being stirred overnight at 25° C., the reaction is heated to 50° C. for 4 hours, then concentrated in vacuo. The residual product is taken up in water, acidified to pH 5-6 and extracted with methylene dichloride. The isolated, dried, concentrated product is triturated with methanol/ether to provide the title compound.

reactant | ethyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-(t-butyldimethylsilyloxy)methyl-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate | 0.287 mmol | C(CCC)C=1N(C(=C(N1)CO[Si](C)(C)C(C)(C)C)/C=C(/C(=O)OCC)\CC=1SC=CC1)CC1=C(C=CC=C1)Cl | C31H43ClN2O3SSi
reactant | sodium hydroxide | one equivalent | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-(t-butyldimethylsilyloxy)methyl-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoic acid | C(CCC)C=1N(C(=C(N1)CO[Si](C)(C)C(C)(C)C)/C=C(/C(=O)O)\CC=1SC=CC1)CC1=C(C=CC=C1)Cl | C29H39ClN2O3SSi
